US06753391B1
Preparation of dithiocarbonic acid S-(4,4-dimethyl-5-oxo-4,5-dihydro-oxazol-2-ylmethyl) ester O-ethyl ester (AzTC)
To a solution of 2-chloromethyl-4,4-dimethyl4H-oxazol-5-one (15.67 g, 97 mmol) and 125 mL acetonitrile was added O-ethyl xanthic acid potassium salt (15.55 g; 97 mmol). The mixture was stirred under a nitrogen atmosphere at room temperature for 16 hours. The reaction mixture was filtered and the solid was washed with 50 mL acetonitrile. The combined filtrate was concentrated under reduced pressure to afford 21.79 g (91%) of AzTC as a yellow crystalline solid.

reactant | 2-chloromethyl-4,4-dimethyl4H-oxazol-5-one | 97 mmol, 15.67 g | ClCC=1OC(C(N1)(C)C)=O | C6H8ClNO2
reactant | O-ethyl xanthic acid potassium salt | 97 mmol, 15.55 g | [K+].C(C)OC(=S)[S-]
solvent | acetonitrile | 125 mL | C(C)#N | C2H3N
product | dithiocarbonic acid S-(4,4-dimethyl-5-oxo-4,5-dihydro-oxazol-2-ylmethyl) ester O-ethyl ester | C(C)OC(SCC=1OC(C(N1)(C)C)=O)=S | C9H13NO3S2
